US08258130B2
To a slurry of N-(2,6-dimethyl-3-oxo-2,5-dihydro-3H-1,2,4-triazin-4-yl)-acetamide (0.34 g, 1.846 mmol) in MeOH (3 mL) is added concentrated HCl (0.25 mL, 2.9 mmol). The mixture is heated to reflux for 3 h. The mixture is then chilled to 0° C., adjusted to pH 12 with 1 M aqueous NaOH (2.9 mL) and concentrated in vacuo. CH3CN is added to the residue with stirring and the mixture is filtered. The filtrate is concentrated in vacuo. CH3CN is added to the residue with stirring and the mixture is filtered. The filtrate is concentrated in vacuo to afford 4-amino-2,6-dimethyl-4,5-dihydro-2H-1,2,4-triazin-3-one (˜100%)). MS: 143 (M+H); 1H NMR (300 MHz, DMSO-d6) δ 4.6-3.6 (broad peak, 2H), 4.02 (s, 2H), 3.29 (s, 3H), 1.95 (s, 3H).

reactant | N-(2,6-dimethyl-3-oxo-2,5-dihydro-3H-1,2,4-triazin-4-yl)-acetamide | 1.846 mmol, 0.34 g | CN1N=C(CN(C1=O)NC(C)=O)C | C7H12N4O2
reactant | HCl | 2.9 mmol, 0.25 mL | Cl | ClH
reactant | NaOH | 1 M, 2.9 mL | [OH-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
product | 4-amino-2,6-dimethyl-4,5-dihydro-2H-1,2,4-triazin-3-one | ~100% | NN1C(N(N=C(C1)C)C)=O | C5H10N4O
